US04873255
Ethyl 3-[4-(6-acetoxy-7-chloro-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate
A procedure similar to that described in Preparation 5 was repeated, except that 1.44 g of 6-acetoxy-2-(4-aminophenoxymethyl)-7-chloro-2-methyl-4-oxochroman (prepared as described in Preparation 36), 1.8 ml of concentrated aqueous hydrochloric acid, 330 mg of sodium nitrite, 18 ml of acetone, 3.7 ml of ethyl acrylate, 330 mg of cuprous oxide and 3 ml of water were reacted, to afford 600 mg of the title compound as a pale yellow oil.

reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-7-chloro-2-methyl-4-oxochroman | 1.44 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1Cl)(C)COC1=CC=C(C=C1)N)=O | C19H18ClNO5
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | sodium nitrite | 330 mg | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 3.7 ml | C(C=C)(=O)OCC | C5H8O2
solvent | water | 3 ml | O | H2O
solvent | acetone | 18 ml | CC(=O)C | C3H6O
product | Ethyl 3-[4-(6-acetoxy-7-chloro-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | 600 mg | C(C)(=O)OC=1C=C2C(CC(OC2=CC1Cl)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O | C24H24Cl2O7
